** sch_path: /home/student/ee5311/tutorial_3/q2b.sch
**.subckt q2b
x1 net1 Vout q1
x2 net2 net1 q1
x3 net3 net2 q1
x4 net4 net3 q1
x5 net5 net4 q1
x6 net6 net5 q1
x7 Vout net6 q1
Vdd1 VDD 0 {VDDVAL}
**** begin user architecture code

* 7-stage ring oscillator - Question 2(b): freq vs VDD
.param width_p = 0.84
.param VDDVAL  = 1.8
.ic v(Vout)=0
.saveall

.control
  let n = 9                     ; number of VDD points
  let vdd_arr    = unitvec(n)
  let freq_arr   = unitvec(n)
  let period_arr = unitvec(n)
  let idx = 0

  foreach vdd 1.0 1.1 1.2 1.3 1.4 1.5 1.6 1.7 1.8
    alterparam VDDVAL = $vdd
    reset
    tran 1p 100n uic

    meas tran t_r1 when v(Vout)=0.4 rise=3
    meas tran t_r2 when v(Vout)=0.4 rise=4
    let period = t_r2 - t_r1
    let freq   = 1/period

    let vdd_arr[$&idx]    = $vdd
    let freq_arr[$&idx]   = freq
    let period_arr[$&idx] = period

    let idx = idx + 1
  end

  * plot inside ngspice
  plot freq_arr vs vdd_arr
  plot period_arr vs vdd_arr

  * also dump to disk for python/excel post-processing
  wrdata freq_vs_vdd.txt   vdd_arr freq_arr
  wrdata period_vs_vdd.txt vdd_arr period_arr
.endc

.lib /cad/share/pdk/sky130B/libs.tech/combined/sky130.lib.spice tt
**** end user architecture code
**.ends

* expanding   symbol:  q1.sym # of pins=2
** sym_path: /home/student/ee5311/tutorial_3/q1.sym
** sch_path: /home/student/ee5311/tutorial_3/q1.sch
.subckt q1 out in
*.ipin in
*.opin out
XM1 out in VDD VDD sky130_fd_pr__pfet_01v8 L=0.15 W={width_p} nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1
XM2 out in GND GND sky130_fd_pr__nfet_01v8 L=0.15 W=0.42 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1
.ends

.GLOBAL VDD
.GLOBAL GND
.end
