** sch_path: /home/student/ee5311/tutorial_1/q2c.sch
**.subckt q2c
Vdd1 VDD GND 1.8
XM1 net1 GND VDD VDD sky130_fd_pr__pfet_01v8 L={Length} W={Width} nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1
Vd1 net1 GND 1.8
**** begin user architecture code
.lib /cad/share/pdk/sky130B/libs.tech/combined/sky130.lib.spice tt

.param Width = 0.42
.param Length = 0.15
.dc Vd1 0 1.8 0.01
.control
    let index = 1
    set cache = ( )
    while index <= 10
        let newW = index * 0.42
        let newL = index * 0.15
        alterparam Width = $&newW
        alterparam Length = $&newL
        reset
        run
        set cache = ( $cache dc{$&index}.i(VDD1)*-1 )
        let index = index + 1
    end
    plot $cache
.endc

**** end user architecture code
**.ends
.GLOBAL VDD
.GLOBAL GND
.end
