** sch_path: /home/student/ee5311/tutorial_1/q3d.sch
**.subckt q3d
C1 Vout 0 100f
Vstep Vin 0 PULSE(1.8 0 5n 10p 10p)
XM1 Vin 0 Vout VDD sky130_fd_pr__pfet_01v8 L=0.15 W=0.42 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1
**** begin user architecture code

.ic v(Vout)=1.8
.control
  tran 1n 120n
  plot v(Vin) v(Vout)
  meas tran vout_20ns FIND v(Vout) AT=25n
  meas tran vout_100ns FIND v(Vout) AT=105n
.endc

.lib /cad/share/pdk/sky130B/libs.tech/combined/sky130.lib.spice tt
**** end user architecture code
**.ends
.end
