** sch_path: /home/student/ee5311/tutorial_3/qn_1_b.sch
**.subckt qn_1_b
V1 Vin 0 PULSE(0 {VDDval} 0ps 5ps 5ps 300ps 600ps)
V2 VDD 0 {VDDval}
x1 Vout Vin net1 inv_gnd
Vmeas net1 0 0
.save i(vmeas)
x2 net2 Vout q1
**** begin user architecture code


.param Width_p = 0.84
.param VDDval = 1.8
.save all
.control
let N = 9
let index = 0
let vddvec = vector(N)
let tpvec = vector(N)
let edpvec = vector(N)
let tp_ana_vec = vector(N)
let edp_ana_vec = vector(N)
let CL = 3.8e-15
let Vtn = 0.7
let Vtp = 0.7
let WnbyL = 0.42 / 0.15
let WpbyL = 0.84 / 0.15
let Kn = 0.00010425
let Kp = 0.00003672
let EcnL = 0.96
let EcpL = 1.00
while index < N
   let vddv = 1.0 + (index * 0.1)
   let v50 = vddv / 2
   alterparam VDDval = $&vddv
   reset
   tran 1p 600p
   meas tran thl trig v(Vin) val=$&v50 rise=1 targ v(Vout) val=$&v50 fall=1
   meas tran tlh trig v(Vin) val=$&v50 fall=1 targ v(Vout) val=$&v50 rise=1
   meas tran iinteg integ i(vmeas)
   let const.vddvec[index] = vddv
   let const.tpvec[index] = ($&thl + $&tlh) / 2
   let const.edpvec[index] = $&iinteg * vddv * const.tpvec[index]
   let tphl_ana = 0.5 * (CL * vddv * (EcnL + vddv - Vtn)) / (Kn * WnbyL * ((vddv - Vtn)^2) * EcnL)
   let tplh_ana = 0.5 * (CL * vddv * (EcpL + vddv - Vtp)) / (Kp * WpbyL * ((vddv - Vtp)^2) * EcpL)
   let tp_ana = (tphl_ana + tplh_ana) / 2
   let const.tp_ana_vec[index] = tp_ana
   let const.edp_ana_vec[index] = CL * (vddv^2) * tp_ana
   let index = index + 1
end
setplot const
print vddvec tpvec tp_ana_vec edpvec edp_ana_vec > edp_vdd_data.txt
plot tpvec tp_ana_vec vs vddvec
plot edpvec edp_ana_vec vs vddvec
.endc
.end

.lib /cad/share/pdk/sky130B/libs.tech/combined/sky130.lib.spice tt
**** end user architecture code
**.ends

* expanding   symbol:  inv_gnd.sym # of pins=3
** sym_path: /home/student/ee5311/tutorial_3/inv_gnd.sym
** sch_path: /home/student/ee5311/tutorial_3/inv_gnd.sch
.subckt inv_gnd out in Ignd
*.ipin in
*.opin out
*.iopin Ignd
XM1 out in Ignd GND sky130_fd_pr__nfet_01v8 L=0.15 W=0.42 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1
XM2 out in VDD VDD sky130_fd_pr__pfet_01v8 L=0.15 W={width_p} nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1
.ends


* expanding   symbol:  q1.sym # of pins=2
** sym_path: /home/student/ee5311/tutorial_3/q1.sym
** sch_path: /home/student/ee5311/tutorial_3/q1.sch
.subckt q1 out in
*.ipin in
*.opin out
XM1 out in VDD VDD sky130_fd_pr__pfet_01v8 L=0.15 W={width_p} nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1
XM2 out in GND GND sky130_fd_pr__nfet_01v8 L=0.15 W=0.42 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1
.ends

.GLOBAL VDD
.GLOBAL GND
.end
