** sch_path: /home/student/ee5311/tutorial_5/untitled.sch
.subckt untitled

Vin1 Vin 0 PULSE(0 1.8 1ps 5ps 5ps 500ps 2000ps)
Vdd1 VDD 0 1.8
x3 VDD Vout Vin 0 nand2
**** begin user architecture code

*.include nand_extracted.spice
.control
tran 0.1p 1000p
meas tran thl trig v(Vin) val=0.9 rise=1 targ v(Vout) val=0.9 fall=1
meas tran tlh trig v(Vin) val=0.9 fall=1 targ v(Vout) val=0.9 rise=1
let delay = ($&thl + $&tlh) / 2
echo delay : $&delay
plot v(Vout) v(Vin)
.endc

.lib /cad/share/pdk/sky130B/libs.tech/combined/sky130.lib.spice tt
**** end user architecture code
.ends

* expanding   symbol:  nand2.sym # of pins=4
** sym_path: /home/student/ee5311/tutorial_5/nand2.sym
** sch_path: /home/student/ee5311/tutorial_5/nand2.sch
.subckt nand2 DVDD out A DGND
*.PININFO DVDD:B DGND:B A:B out:B
XM1 DVDD DVDD out DVDD sky130_fd_pr__pfet_01v8 L=0.15 W=1.68 nf=1
XM2 out A DVDD DVDD sky130_fd_pr__pfet_01v8 L=0.15 W=1.68 nf=1
XM3 out A net1 DGND sky130_fd_pr__nfet_01v8 L=0.15 W=1.68 nf=1
XM4 DGND DVDD net1 DGND sky130_fd_pr__nfet_01v8 L=0.15 W=1.68 nf=1
XM5 DVDD DVDD net2 DVDD sky130_fd_pr__pfet_01v8 L=0.15 W=1.68 nf=1
XM6 net2 out DVDD DVDD sky130_fd_pr__pfet_01v8 L=0.15 W=1.68 nf=1
XM7 net2 out net3 DGND sky130_fd_pr__nfet_01v8 L=0.15 W=1.68 nf=1
XM8 DGND DVDD net3 DGND sky130_fd_pr__nfet_01v8 L=0.15 W=1.68 nf=1
.ends

